US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (168 mg, 0.5 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (345 mg, 5.0 mmol), 5-hydroxy-2-indolecarboxylic acid (106 mg, 0.6 mmol) and DMA (2.0 ml) was purged with nitrogen for 5 minutes at 25° C. This mixture was then stirred at 100° C. for 3 hours, allowed to cool to ambient temperature, filtered and the filtrate evaporated under vacuum. The residue was purified on octadecylsilane reverse phase silica eluting with acetonitrile/water/trifluoroacetic acid (as a gradient from 30/69.8/0.2 to 50/49.8/0.2) and the product further purified by silica column chromatography eluting with dichloromethane/methanolic ammonia (7M) (90/10) to give 4-(2-carboxyindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (85 mg 36%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.5 mmol, 168 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 5.0 mmol, 345 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-2-indolecarboxylic acid | 0.6 mmol, 106 mg | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
solvent | DMA | 2.0 ml | CC(=O)N(C)C | C4H9NO
product | 4-(2-carboxyindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 85 mg, 36% | C(=O)(O)C=1NC2=CC=C(C=C2C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C26H28N4O5
